US06320051B1
d) 2-[(2-aminocyclopentyl)methylamino]-1H-quinolin-4-one dihydrochloride
A solution of 2-[(2-aminocyclopentyl)methylamino]-4-methoxyquinoline (0.090 g, 0.332 mmol) in hydrochloric acid (10M, 5 ml) was stirred at reflux for 8 h. After cooling the mixture was concentrated to give the title compound as a light brown solid (50:50 mixture of cis and trans isomers; 0.11 g, 100%). δH (CD3OD) 1.45-2.80 (7H, m, (CH2)3, CHCH2NH), 3.40-3.95 (3H, m, CHNH2, CH2NH), 6.43-6.45 (1H, 2s, 3-H), 7.47-8.18 (4H, m, ArH). MS (ES+) 258 (M+H).

reactant | 2-[(2-aminocyclopentyl)methylamino]-4-methoxyquinoline | 0.332 mmol, 0.090 g | NC1C(CCC1)CNC1=NC2=CC=CC=C2C(=C1)OC | C16H21N3O
reactant | hydrochloric acid | 10M, 5 ml | Cl | ClH
product | 2-[(2-aminocyclopentyl)methylamino]-1H-quinolin-4-one dihydrochloride | 0.11 g, 100% | Cl.Cl.NC1C(CCC1)CNC=1NC2=CC=CC=C2C(C1)=O | InChI=1S/C15H19N3O.2ClH/c16-12-6-3-4-10(12)9-17-15-8-14(19)11-5-1-2-7-13(11)18-15;;/h1-2,5,7-8,10,12H,3-4,6,9,16H2,(H2,17,18,19);2*1H
